// Cython only. Converts a number to a float.
inl f64 forall t {number}. (x : t) : f64 = $"<`f64>!x"
inl f32 forall t {number}. (x : t) : f32 = $"<`f32>!x"
inl u64 forall t {number}. (x : t) : u64 = $"<`u64>!x"
inl i32 forall t {number}. (x : t) : i32 = $"<`i32>!x"
inl conv_num forall a {number} b {number}. (x : a) : b = $"<`b>!x"
inl conv_int forall a {int} b {int}. (x : a) : b = $"<`b>!x"
inl round forall a {number} b {int}. (x : a) : b = $"round(!x)"
